US08232300B2
(2) 3a-Methyl-2,3,3a,4,5,6-hexahydro-1H-phenalene
3a-Methyl-2,3,3a,4-tetrahydro-1H-phenalene (1.83 g) was dissolved in ethanol (12 ml), the solution was added with 10% palladium/carbon (0.183 g), and the mixture was stirred for 6 hours under a hydrogen flow. The reaction mixture was filtered through Celite, then the solvent of the filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography using a small amount of silica gel (developing solvent: n-hexane) to obtain the title compound (1.74 g, yield: 94%).

reactant | 3a-Methyl-2,3,3a,4-tetrahydro-1H-phenalene | 1.83 g | CC12CCCC=3C=CC=C(C=CC1)C32 | C14H16
solvent | ethanol | 12 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.183 g | [Pd] | Pd
product | 3a-Methyl-2,3,3a,4,5,6-hexahydro-1H-phenalene | 1.74 g, yield: 94% | CC12CCCC=3C=CC=C(CCC1)C32 | C14H18
